datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[H:12]>>[C:0]([C:1]1([H:12])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7],14.723496
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],96.6086
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9][S:10][H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9](=[C:8]([H:11])[H:12])[S:10][H:13],-35.564
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:18])([C:12](=[S:13])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:17])([H:4])[H:5].[C:9]([C:10]([S:11][H:18])[C:12](=[S:13])[H:19])([H:14])([H:15])[H:16],20.92
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1]([S:2][C:9]([H:10])([H:11])[H:12])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8],65.6888
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([C:13](=[C:14]([C:15]([H:23])([H:24])[H:25])[H:22])[H:21])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0]1([H:4])([H:5])[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:14]([C:15]([H:23])([H:24])[H:25])([H:22])[C:13]([H:21])=[C:12]([H:20])[C:11]1([C:10]([H:16])([H:17])[H:18])[H:19],83.9729
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])[H:10],38.1162
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],108.073
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])([H:12])([H:13])[H:14],61.5048
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:11])[H:10],14.6858
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][O:16][H:17]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][O:15][O:16][H:17],30.94377616
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])[H:8])[H:7])([H:5])[H:6],43.0534
[C:0](=[N:1][H:3])[H:2].[H:4]>>[C:0](#[N:1])[H:2].[H:3][H:4],-3.72376
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:17](=[C:18]([H:20])[H:21])[H:19],70.2912
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]2([H:13])[C:4]1([H:14])[C:5]21[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])=[C:9]1[H:18]>>[C:0]1([H:10])=[C:4]([H:14])[C:5]2([C:3]([H:13])[C:2]([H:12])=[C:1]1[H:11])[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])=[C:9]2[H:18],95.8136
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:16])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])([H:13])([H:14])[H:15],30.1248
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])([C:10](=[C:11]([H:20])[H:21])[H:19])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:15])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])[C:10](=[C:11]([H:20])[H:21])[H:19])[H:14])([H:12])[H:13],67.7808
